US07250427B2
2-{4-[1-(3,4-Dichloro-benzyl)-piperidin-3-ylmethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide
This compound was prepared using the methods outlined in Example 27, substituting 2-[4-(piperidin-3-ylmethoxy)-phenyl]-1H benzoimidazole-5-carboxylic acid amide for 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide and 3,4-dichlorobenzaldehyde for p-tolualdehyde. HPLC (Method C): Rt=4.79. MS (ESI+): mass calcd. for C27H26Cl2N4O2, 508.14; m/z found, 509.3 [M+H]+. 1H NMR (500 MHz, CD3OD): 8.17 (s, 1H), 8.02 (d, J=9.1 Hz, 2H), 7.92 (dd, J=1.5, 8.7 Hz, 1H), 7.67 (m, 2H), 7.58 (d, J=8.3 Hz, 1H), 7.28 (dd, J=2.0, 8.4 Hz, 1H), 7.13 (d, J=9.1 Hz, 2H), 4.32-4.25 (m, 2H), 4.08-4.05 (m, 1H), 3.98-3.94 (m, 1H), 3.61-3.58 (m, 1H), 3.45-3.41 (m, 1H), 2.92-2.87 (m, 2H), 2.36-2.25 (m, 1H), 2.00-1.90 (m, 2H), 1.81-1.71 (m, 1H), 1.46-1.36 (m, 1H).

reactant | 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | N1C(CCCC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | p-tolualdehyde | C1(=CC=C(C=C1)C=O)C | C8H8O
product | 2-{4-[1-(3,4-Dichloro-benzyl)-piperidin-3-ylmethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide | ClC=1C=C(CN2CC(CCC2)COC2=CC=C(C=C2)C2=NC3=C(N2)C=CC(=C3)C(=O)N)C=CC1Cl | C27H26Cl2N4O2
